US07951824B2
2′-Chloro-6-methyl-[4,4′]bipyridinyl-2-carboxylic acid (5-chloro-pyridin-2-yl)-amide
The title compound, was prepared from 2′-Chloro-6-methyl-[4,4′]bipyridinyl-2-carboxylic acid ethyl ester in accordance with the general method of example 26, step 6 using 2-amino-5chloropyridine instead of 3-chloroaniline to yield the final compound as a white crystalline, MS (ISP): m/e=359.0, 361.1 (M+H)+.

reactant | 2′-Chloro-6-methyl-[4,4′]bipyridinyl-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC(=C1)C1=CC(=NC=C1)Cl)C | C14H13ClN2O2
reactant | 2-amino-5chloropyridine | NC1=NC=C(C=C1)Cl | C5H5ClN2
product | 2′-Chloro-6-methyl-[4,4′]bipyridinyl-2-carboxylic acid (5-chloro-pyridin-2-yl)-amide | ClC=1C=CC(=NC1)NC(=O)C1=NC(=CC(=C1)C1=CC(=NC=C1)Cl)C | C17H12Cl2N4O
